US08975282B2
Step 1) phenyl (4-(4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)-2-fluorophenoxy)pyridin-2-yl)carbamate
A suspension of N-(4-((2-aminopyridin-4-yl)oxy)-3-fluorophenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-c arboxamide (500 mg, 1.10 mmol) in DCM/pyridine (50 mL/25 mL) was cooled to 0° C., then a solution of phenylcarbonochloridate (450 mg, 2.90 mmol) in DCM (5 mL) was added to the mixture slowly over 0.5 hour. The reaction was stirred at rt for 2 hours, then diluted with DCM (250 mL). The mixture was washed with water (150 mL×3), followed by washing with brine (150 mL), dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. The residue was purified by a silica gel column chromatography (DCM/MeOH (v/v)=150/1) to give the title compound as a white solid (352 mg, 46%).

reactant | N-(4-((2-aminopyridin-4-yl)oxy)-3-fluorophenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-c arboxamide | 1.10 mmol, 500 mg | NC1=NC=CC(=C1)OC1=C(C=C(C=C1)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O)F | C23H20FN5O3
reactant | phenylcarbonochloridate | 2.90 mmol, 450 mg | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
solvent | DCM pyridine | 50 mL | C(Cl)Cl.N1=CC=CC=C1
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 250 mL | C(Cl)Cl | CH2Cl2
product | phenyl (4-(4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)-2-fluorophenoxy)pyridin-2-yl)carbamate | 352 mg, 46% | CN1N(C(C(=C1C)C(=O)NC1=CC(=C(OC2=CC(=NC=C2)NC(OC2=CC=CC=C2)=O)C=C1)F)=O)C1=CC=CC=C1 | C30H24FN5O5
